2166-07-30 07:11:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Nursing noted OSA w/ desats to 88%. Consider outpt sleep study
   - Given 500cc NS bolus 2/2 drop off in UOP ON
   - DNR; pt still considering whether to be DNI - readdress tomorrow
   - TTE tomorrow; d/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] re: cath vs. only med mgmt
   - Daughter ([**Female First Name (un) 7026**]) and son [**Doctor Last Name 2381**] would like update on plan
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 700 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2166-7-30**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.9
C (98.5
   HR: 79 (63 - 83) bpm
   BP: 114/74(82) {85/37(52) - 152/114(118)} mmHg
   RR: 20 (5 - 28) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
             Total In:
                                                                  1,516 mL
                                                                    300 mL
   PO:
                                                                    330 mL
                                                                    180 mL
   TF:
   IVF:
                                                                  1,186 mL
                                                                    120 mL
   Blood products:
   Total out:
                                                                  3,060 mL
                                                                    174 mL
   Urine:
                                                                  3,060 mL
                                                                    174 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,544 mL
                                                                    126 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///27/
   Physical Examination
   General Appearance: Well nourished, No acute distress, pleasant, hard
   of hearing
   Eyes / Conjunctiva: PERRL, EOMI, oropharynx clear and without exudate.
   Conjunctiva pink, no pallor or cyanosis of oral mucosa. Dry oral mucosa
   and lips
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic/Neck: Cervical WNL, Supraclavicular WNL, supple, JVD 16-18
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), Multiple
   PVCs, PMI located in 5^th intercostal space-midclavicular line
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), no chest wall
   deformities/scoliosis/kyphosis. Bibasilar crackles to mid-lung field.
   No wheezes or rhonchi
   Abdominal: Soft, Non-tender, non-distended, BS present. No
   HSM/abdominal aorta enlargement. No abdominal bruits
   Extremities: Left femoral incision site c/d/I, no c/e/e, no femoral
   bruits, 2+ DP/PT pulses bilaterally
   Skin:  Warm, no stasis/ulcers/scars/xanthomas
   Neurologic: Attentive, Responds to: Not assessed, No(t) Oriented (to):
   ,
   Labs / Radiology
   256 K/uL
   9.7 g/dL
   101 mg/dL
   1.1 mg/dL
   27 mEq/L
   4.9 mEq/L
   17 mg/dL
   107 mEq/L
   143 mEq/L
   30.2 %
   10.5 K/uL
        [image002.jpg]
                             [**2166-7-29**]  09:16 PM
                             [**2166-7-30**]  04:00 AM
   WBC
   10.5
   Hct
   30.2
   30.2
   Plt
   262
   256
   Cr
   1.1
   1.1
   TropT
   3.74
   Glucose
   101
   Other labs: PT / PTT / INR:14.5/50.9/1.3, CK / CKMB /
   Troponin-T:584/83/3.74, Ca++:8.2 mg/dL, Mg++:1.7 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   The patient is a 87 yo female with h/o CAD s/p stent to RCA who
   presented from OSH with NSTEMI and was found to have 3VD via cardiac
   cath.
   .
   #. CAD:  The patient has a history of CAD s/p stent to RCA
   approximately 10 yo at [**Hospital 1534**] Hospital.  The patient presented with
   chest pain in the setting of CE elevation, consistent with NSTEMI.
   Cardiac cath showed diffuse 3VD.  CTSurg was consulted, and they stated
   that the patient is a poor surgical candidate. Pt also declines
   surgical intervention
    - TTE today to assess for RCA territory hypokinesis and LVEF
    - Consider RCA stent placement v. aggressive medical management w/ Dr.
   [**Last Name (STitle) **]
    - Continue Plavix, Atorvastatin, ASA 325 mg daily
    - Continue Metoprolol 25 mg [**Hospital1 **] and uptitrate as tolerated
    - Continue to monitor groin site s/p cath
    - Hold ACEI; currently hypo/normotensive
    - Continue Heparin gtt for 48 hours from event; can D/C 4pm today
   -  Weaned off nitro gtt
   .
   #. Diastolic CHF:  The patient had evidence of elevated LVEDP in
   cardiac cath.  She was given Lasix 40 mg PO and diuresed 2-3L. Today
   appears volume overloaded with crackles and JVD.
    - I/O goal of -500 cc to 1 L today
    - Lasix 10 mg IV now, check PM lytes
    - TTE today
   .
   # RHYTHM:  Currently in NSR.  Multiple PVCs on telemetry.
    - Continue to monitor on telemetry
   .
   #. Melanoma:  The patient was recently diagnosed with melanoma and is
   now s/p excision of right inguinal lymph nodes.  She has had all of her
   care at [**Hospital3 1492**].
    - Acquire records from [**Hospital3 1492**] tomorrow, if necessary
   .
   #. Dementia:  Continue home dose of Donepezil
   .
   #. Psych:  Continue home dose of Wellbutrin for depression and
   Methylphenidate for ADD
   .
   #. FEN: Cardiac/Heart Healthy diet
   .
   #. ACCESS: PIV's
   .
   # PROPHYLAXIS:
    - DVT ppx with heparin gtt
    - Pain management with Tylenol prn
    - Bowel regimen with Senna and Colace
   .
   #. CODE: DNR but full intubation
   .
   # DISPO: CCU for now
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
   ICU Care
   Nutrition: Cardiac/heart healthy
   Glycemic Control:  ISS
   Lines:
   20 Gauge - [**2166-7-29**] 04:27 PM
   22 Gauge - [**2166-7-29**] 04:28 PM
   Prophylaxis:
   DVT: Heparin gtt, D/C today and start SC
   Pain: Tylenol prn
   Bowel: Senna, colace
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: discuss with son and daughter today
   [**Name2 (NI) 129**] status: DNR (do not resuscitate) but full intubation
   Disposition: CCU for now.
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) **].
   I would add the following remarks:
   History
   87 yr old white female transferred with MI, CK 1441, and found to have
   severe 3 vessel CAD and LVEDP 32.
   Recently had melanoma excision.
   Still tenuous today with intermittent hypotension and new AF.
   No recurrent chest pain.
   Cr 1.3
   Echo with EF 45%.
   Physical Examination
   comfortable
   bibasilar rales
   Medical Decision Making
   Will try to restore NSR.
   Continue ASA, plavix, heparin and see if can stabilize with medical
   therapy.
   PT requests DNR status.
   DNR status discussed. DNR.
   Total time spent on patient care: 30 minutes of critical care time.
   ------ Protected Section Addendum Entered By:[**Name (NI) 322**] [**Last Name (NamePattern1) **], MD
   on:[**2166-7-30**] 17:25 ------

2166-07-31 07:28:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Persistent CP
   24 Hour Events:
   - Afib (HR100, SBP 99
86, T100.3) @ 1pm: given Tylenol and 250cc NS
   bolus. AF HR>100 persisted
 Amio 150IV
   - Converted to NSR @ 10 pm
 low PTT so 900 unit bolus + 650/hr
 750
   units/hr
   - TFT/LFT pending, PFTs needed
   - CP [**2167-6-5**] midsubsternal, incr w/inspiration, not reproducible @ 4:30
   am
 SL NTG, 1mg IV morphine w/ relief
 EKG ok, CE stable
 [**2167-4-3**] CP
   now
   - UO decreased ON
 10 mg PO Lasix
   - UA +, cipro 250 [**Hospital1 **] started
 Ucx/BCx pending
   - TTE:  Mild symmetric left ventricular hypertrophy with mild regional
   systolic dysfunction c/w CAD. Mild pulmonary artery systolic
   hypertension. Mild mitral regurgitation. LVEF 45.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2166-7-30**] 11:16 PM
   Infusions:
   Heparin Sodium - 750 units/hour
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2166-7-30**] 09:40 AM
   Heparin Sodium - [**2166-7-30**] 11:15 PM
   Morphine Sulfate - [**2166-7-31**] 05:08 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2166-7-31**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.2
C (98.9
   HR: 74 (61 - 104) bpm
   BP: 110/55(68) {72/39(45) - 123/83(94)} mmHg
   RR: 27 (15 - 32) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
             Total In:
                                                                  1,368 mL
                                                                    186 mL
   PO:
                                                                    530 mL
             TF:
   IVF:
                                                                    838 mL
                                                                    186 mL
   Blood products:
   Total out:
                                                                    878 mL
                                                                    114 mL
   Urine:
                                                                    878 mL
                                                                    114 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    490 mL
                                                                     72 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///25/
   Physical Examination
   General Appearance: Very diaphoretic, pleasant, hard of hearing
   Eyes / Conjunctiva: PERRL, EOMI, oropharynx clear and without exudate.
   Conjunctiva pink, no pallor or cyanosis of oral mucosa. Dry oral mucosa
   and lips
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic/Neck: Cervical WNL, Supraclavicular WNL, supple, JVD 16-18
   Cardiovascular: Cardiac rub throughout cycle. Normal S1/S2, RRR, no
   m/g/r
   Respiratory / Chest: (Expansion: Symmetric), no chest wall
   deformities/scoliosis/kyphosis. Mild/absent crackles b/l. No
   wheezes/rhonchi/rales
   Peripheral Vascular: B/L radial pulses present. B/l DP/PTpulses
   diminished
   Abdominal: Soft, Non-tender, non-distended, BS present. No
   HSM/abdominal aorta enlargement. No abdominal bruits
   Extremities: Left femoral incision site c/d/I, right femoral/knee
   surgical incisions c/d/I w/ steristrips in place. No c/e/e, no femoral
   bruits
   Skin:  Warm, no stasis/ulcers/scars/xanthomas
   Neurologic: Attentive, mildly confused, A&O X3
   Labs / Radiology
   254 K/uL
   9.5 g/dL
   129 mg/dL
   1.3 mg/dL
   25 mEq/L
   4.4 mEq/L
   22 mg/dL
   103 mEq/L
   140 mEq/L
   29.2 %
   16.5 K/uL
        [image002.jpg]  CK / CKMB / Troponin-T:322/30/9.3/3.03
   Previously:
   CK: 356
   MB: 29
   MBI: 8.1
   Trop-T: 2.52
                             [**2166-7-29**]  09:16 PM
                             [**2166-7-30**]  04:00 AM
                             [**2166-7-30**]  12:55 PM
                             [**2166-7-31**]  04:38 AM
   WBC
   10.5
   16.5
   Hct
   30.2
   30.2
   29.2
   Plt
   [**Telephone/Fax (3) 7064**]
   Cr
   1.1
   1.1
   1.2
   1.3
   TropT
   3.74
   2.52
   3.03
   Glucose
   101
   129
   Other labs: PT / PTT / INR:13.6/44.9/1.2, ALT / AST:28/122, Alk Phos /
   T Bili:61/1.0, LDH:581 IU/L, Ca++:8.3 mg/dL, Mg++:1.7 mg/dL, PO4:2.9
   mg/dL
   Assessment and Plan
   The patient is a 87 yo female with h/o CAD s/p stent to RCA who
   presented from OSH with NSTEMI and was found to have 3VD via cardiac
   cath.
   .
   # Chest pain: patient describes pleuritic pain and has a pericardial
   rub on exam.  Possible post-MI inflammation causing pericarditis vs.
   infectious pericarditis.  Raises possibility that initial event was
   also secondary to pericarditis, though this seems less likely.
   - Avoid NSAIDs in peri-infarction period. Treat with symptomatic pain
   relief.
   .
   # UTI: Had a positive UA yesterday, diaphoretic on exam today, and has
   a rising WBC.  Started on ciprofloxacin, though she may be worsening on
   current PO antibiotic therapy.  Switch to IV ciprofloxacin and consider
   broadening.
   - follow-up blood and urine cultures.
   - monitor closely.
   .
   #. CAD:  The patient has a history of CAD s/p stent to RCA
   approximately 10 yo at [**Hospital 1534**] Hospital.  The patient presented with
   chest pain in the setting of CE elevation, consistent with NSTEMI.
   Cardiac cath showed diffuse 3VD.  CTSurg was consulted, and they stated
   that the patient is a poor surgical candidate. Pt also declines
   surgical intervention. TTE yesterday showed LVEF 45% and pt c/o
   recurrent unstable angina ON w/ + CE (pleritic vs cardiac)
    - Re-evaluate RCA stent placement v. aggressive medical management
   - SL NTG Morphine for CP; CXR this AM to evaluate pleuritic vs. cardiac
   - Continue Plavix, Atorvastatin, ASA 325 mg daily, Metoprolol 25 mg [**Hospital1 **]
   and uptitrate as tolerated
    - Hold ACEI; currently hypo/normotensive
   - Continue to monitor groin site s/p cath
    - Stop heparin gtt.
   # RHYTHM:  Currently in NSR despite Afib most of yesterday.
   - Continue Amio gtt X 18 hrs, then start 400 mg PO BID tonight
   - Continue to monitor on telemetry
   .
   #. Diastolic CHF:  The patient had evidence of elevated LVEDP in
   cardiac cath.  Pt given 250NC bolus yesterday for Afib, then Lasix for
   decreased U/O. Today continues to be volume overloaded with crackles
   and JVD. Pt euvolemic yesterday. BUN/Cr creeping up.
    - I/O goal of -500 cc today
    - cont PO Lasix (did not tolerate IV) as needed
   .
   #. Melanoma:  The patient was recently diagnosed with melanoma and is
   now s/p excision of right inguinal lymph nodes.  She has had all of her
   care at [**Hospital3 1492**].
    - Acquire records from [**Hospital3 1492**], if necessary
   .
   #. Dementia:  Continue home dose of Donepezil
   .
   #. Psych:  Continue home dose of Wellbutrin for depression and
   Methylphenidate for ADD
   .
   #. FEN: Cardiac/Heart Healthy diet
   .
   #. ACCESS: PIV's
   .
   # PROPHYLAXIS:
    - DVT ppx with heparin gtt
    - Pain management with Tylenol and Percocet prn
    - Bowel regimen with Senna and Colace
   .
   #. CODE: DNR/DNI.
   # DISPO: CCU for now
   ICU Care
   Nutrition: Cardiac/heart healthy
   Glycemic Control:  ISS
   Lines:
   20 Gauge - [**2166-7-29**] 04:27 PM
   22 Gauge - [**2166-7-29**] 04:28 PM
   Prophylaxis:
   DVT: Heparin SC starting today
   Pain: Tylenol PRN, Percocet PRN
   Bowel: Senna, colace
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: Update son and daughter
   [**Name (NI) 129**] status: DNR (do not resuscitate) but full intubation
   Disposition: CCU for now.
 ATRIAL FIBRILLATION (AFIB)
 MELANOMA (CANCER, MALIGNANT NEOPLASM, SKIN)
 DEMENTIA (INCLUDING ALZHEIMER'S, MULTI INFARCT)
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
   ICU Care
   Nutrition: Cardiac, heart healthy
   Glycemic Control:  ISS
   Lines:
   20 Gauge - [**2166-7-29**] 04:27 PM
   22 Gauge - [**2166-7-29**] 04:28 PM
   Prophylaxis:
   DVT: starting SC heparin today
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR/DNI
   Disposition: CCU
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) **].
   I would add the following remarks:
   History
   Developed pleuritic chest pain assoc with rub and mild incr enzymes.
   AFib yesterday converted with iv amiodarone.
   On Cipor for UTI.
   EF 45% on echo.
   wbc incr 16 with pt with fever and drenching sweats
   Physical Examination
   diffusely sweating with pleuritic chest pain and pericardial rub
   no resp distress
   Medical Decision Making
   Broaden antibiotic coverage
   Maintain NSR with amio
   OK to stop heparin
   continue ASA and plavix with conservative approach to CAD
   Total time spent on patient care: 30 minutes of critical care time.
   ------ Protected Section Addendum Entered By:[**Name (NI) 322**] [**Last Name (NamePattern1) **], MD
   on:[**2166-7-31**] 12:20 ------

2166-08-01 07:02:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - abx switched to IV ceftriaxone 1gm daily beginning [**8-1**] at midnight.
   Got dose of IV cipro today.
   - stopped heparin gtt
   - received several 250cc fluid boluses while she appeared mildly
   septic, but urine output did not improve and BPs remained low.  Started
   on lasix gtt at 6:30pm, w/ goal -600ccs.
   - low urine output during day, FE Urea 9.23% suggests prerenal
   etiology.
   - Amiodarone gtt stopped at 8pm, then given Amiodarone 400mg [**Hospital1 **] PO.
   This dose for one week.  Then 400mg QD for one week. Then 200mg QD
   afterwards for a total of one month.
   - at 11pm restarted Afib with HR 80-90s returned to NSR around 5 am.
   - at midnight, concerns about hypotension (SBP 70
s)  led to A-line
   placement, showed better BPs (SBP 100
 BLOOD CULTURED - At [**2166-8-1**] 04:30 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2166-7-31**] 10:00 AM
   Ceftriaxone - [**2166-8-1**] 12:20 AM
   Infusions:
   Furosemide (Lasix) - 7 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2166-7-31**] 08:10 PM
   Heparin Sodium (Prophylaxis) - [**2166-7-31**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2166-8-1**] 06:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 35.8
C (96.5
   HR: 60 (54 - 92) bpm
   BP: 101/44(65) {86/39(55) - 103/52(68)} mmHg
   RR: 21 (17 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 63.8 kg (admission): 62.7 kg
   Height: 61 Inch
             Total In:
                                                                  1,831 mL
                                                                    163 mL
   PO:
                                                                    730 mL
                                                                     60 mL
   TF:
   IVF:
                                                                  1,101 mL
                                                                    103 mL
   Blood products:
   Total out:
                                                                    287 mL
                                                                    440 mL
   Urine:
                                                                    287 mL
                                                                    440 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,544 mL
                                                                   -277 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///23/
   Physical Examination
   General Appearance: Asleep, comfortable, hard of hearing
   Eyes / Conjunctiva: Conjunctiva pink, no pallor or cyanosis of oral
   mucosa. MMM.
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic/Neck: supple, JVP 6, no HJR
   Cardiovascular: Normal S1/S2, RRR, no m/g, no rub
   Respiratory / Chest:  Mild crackles on left. No wheezes/rhonchi/rales
   Peripheral Vascular: B/l DP/PTpulses 1+
   Abdominal: Soft, Non-tender, non-distended, BS present. No HSM.
   Extremities: Left femoral incision site c/d/I, right femoral/knee
   surgical incisions c/d/I w/ steristrips in place. No c/e/e, no femoral
   bruits, A-line placement site dressing bloody.
   Skin:  Warm, no stasis/ulcers/scars/xanthomas
   Neurologic: Attentive, mildly confused.
   Labs / Radiology
   206 K/uL
   8.5 g/dL
   106 mg/dL
   1.5 mg/dL
   23 mEq/L
   3.7 mEq/L
   30 mg/dL
   106 mEq/L
   139 mEq/L
   26.3 %
   11.7 K/uL
        [image002.jpg]
                             [**2166-7-29**]  09:16 PM
                             [**2166-7-30**]  04:00 AM
                             [**2166-7-30**]  12:55 PM
                             [**2166-7-31**]  04:38 AM
                             [**2166-7-31**]  07:33 PM
                             [**2166-8-1**]  04:22 AM
   WBC
   10.5
   16.5
   11.7
   Hct
   30.2
   30.2
   29.2
   26.3
   Plt
   [**Telephone/Fax (3) 7084**]06
   Cr
   1.1
   1.1
   1.2
   1.3
   1.6
   1.5
   TropT
   3.74
   2.52
   3.03
   Glucose
   101
   129
   106
   Other labs: PT / PTT / INR:13.6/44.9/1.2, CK / CKMB /
   Troponin-T:322/30/3.03, ALT / AST:28/122, Alk Phos / T Bili:61/1.0,
   LDH:581 IU/L, Ca++:7.6 mg/dL, Mg++:1.8 mg/dL, PO4:3.9 mg/dL
URINE CULTURE (Preliminary):
         ESCHERICHIA COLI.    >100,000 ORGANISMS/ML
   Blood cx pnd
   Assessment and Plan
   The patient is a 87 yo female with h/o CAD s/p stent to RCA who
   presented from OSH with NSTEMI and was found to have 3VD via cardiac
   cath.
   .
   # UTI: Had a positive UA, cx grew >100,000 E. coli, sensi
s pending.
   Received PO then IV ciprofloxacin, switched to CTX O/N due to [**Hospital1 1**]
   micro data. WBC now trending down, afebrile since AM [**7-31**].
   - follow-up blood and urine cultures, tailor abx appropriately
   - monitor fever curve
   .
   # Chest pain: patient described pleuritic pain and has a pericardial
   rub on exam, both now resolved.  Possible post-MI inflammation causing
   pericarditis vs. infectious pericarditis.
   - Cont to avoid NSAIDs in peri-infarction period. Just pain control for
   now.
   .
   #. CAD:  The patient has a history of CAD s/p stent to RCA
   approximately 10 yo at [**Hospital 1534**] Hospital.  The patient presented with
   chest pain and CE elevation, c/w NSTEMI.  Cardiac cath showed diffuse
   3VD.  CTSurg was consulted, patient is a poor surgical candidate. TTE
   showed LVEF 45% .
   - Leaning towards aggressive medical management vs PCI
   - Continue Plavix, Atorvastatin, ASA 325 mg daily, Metoprolol 25 mg [**Hospital1 **]
   and uptitrate as tolerated
    - Hold ACEI; currently hypo/normotensive
   - Continue to monitor groin site s/p cath
   .
   # RHYTHM:  Patient has been in and out of Afib with rates 100
s, slight
   drop in BP but asymptomatic. Last recurrence was 11pm on [**7-31**], received
   Lopressor and returned to NSR at 5 am. Currently in NSR.
   - Continue Amio 400 mg PO BID for 1 week, then 200 mg [**Hospital1 **], then 200 mg
   daily
   - Continue to monitor on telemetry
   - Given CHADS score of 3, pt at sufficient risk for stroke (~5%); will
   start Coumadin 5mg today.
    .
   #. Diastolic CHF: Acute on chronic. The patient had evidence of
   elevated LVEDP in cardiac cath.  Given Pt appears total body balance
   volume overloaded today w/ mild crackles on exam, but intravascularly
   may be hypovolemic given FeNA and elevated BUN/Cr. Cr decreased today
   after Lasix gtt started.
    - I/O goal of neg 500cc today
    - cont Lasix gtt, titrate up to [**6-13**]
   .
   #. Melanoma:  The patient was recently diagnosed with melanoma and is
   now s/p excision of right inguinal lymph nodes.  She has had all of her
   care at [**Hospital3 1492**].
    - Acquire records from [**Hospital3 1492**], if necessary
   .
   #. Dementia:  Continue home dose of Donepezil
   .
   #. Psych:  Continue home dose of Wellbutrin for depression and
   Methylphenidate for ADD
   .
   #. FEN: Cardiac/Heart Healthy diet
   .
   #. ACCESS: L A-line, L 22-gauge PIV
 PICC placement planned for today
   .
   # PROPHYLAXIS:
    - DVT ppx with heparin SC
    - Pain management with Tylenol prn
    - Bowel regimen with Senna and Colace
   .
   #. CODE: DNR/DNI.
   # DISPO: CCU for now
   ICU Care
   Nutrition: Cardiac/heart healthy
   Glycemic Control:  ISS
   Lines:
   L A-line placed [**7-31**] /09
   22 Gauge - [**2166-7-29**] 04:28 PM
   Prophylaxis:
   DVT: Heparin SC
   Pain: Tylenol PRN, morphine IV PRN
   Bowel: Senna, colace
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: Update son and daughter
   [**Name (NI) 129**] status: DNR/DNI
   Disposition: CCU for now.
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   per housestaff
   nothing to add
   Physical Examination
   per housestaff
   nothing to add
   Medical Decision Making
   start with lower warfarin dose - 2.5 mg
   Above discussed extensively with patient.
   Total time spent on patient care: 60 minutes.
   Additional comments:
   will pursue conservative management in this complicated MI with CHF and
   now atrial fibrillation
   initiate warfarin and amiodarone carefully
   no cath or cabg
   no central line unless absolutely necessary
   continue to diurese
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 1584**]
   on:[**2166-8-1**] 09:17 ------

2166-08-02 07:17:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Increased Lasix gtt range ([**6-13**]) for more diuresis. Goal -80cc/hr. Cr
   1.5
 1.9; Ulytes/eos/UA ordered. Pt still w/ b/l crackles at bases
   - Started Heparin gtt to bridge to Coumadin 2.5 mg daily. Was
   supratherapeutic late last night.
   - UCx grew out E.Coli that was pansensitive. Switched to PO cipro for
   tomorrow X 5d course (complicated UTI)
   - Pain meds switched to PO
   - PICC placed w/o issues
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2166-7-31**] 10:00 AM
   Ceftriaxone - [**2166-8-1**] 12:20 AM
   Infusions:
   Heparin Sodium - 900 units/hour
   Furosemide (Lasix) - 10 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2166-8-1**] 12:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2166-8-2**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36
C (96.8
   HR: 65 (56 - 94) bpm
   BP: 91/44(62) {86/37(54) - 112/59(77)} mmHg
   RR: 21 (14 - 28) insp/min
   SpO2: 98%/RA
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 63.8 kg (admission): 62.7 kg
   Height: 61 Inch
             Total In:
                                                                    913 mL
                                                                    169 mL
   PO:
                                                                    330 mL
             TF:
   IVF:
                                                                    583 mL
                                                                    169 mL
   Blood products:
   Total out:
                                                                  1,542 mL
                                                                    610 mL
   Urine:
                                                                  1,542 mL
                                                                    610 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -629 mL
                                                                   -441 mL
   Respiratory support
   O2 Delivery Device: Room Air
   SpO2: 93%
   ABG: ////
   Physical Examination
   General Appearance: Asleep, comfortable, hard of hearing
   Eyes / Conjunctiva: Conjunctiva pink, no pallor or cyanosis of oral
   mucosa. MMM.
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic/Neck: supple, JVP 6 cm, no HJR
   Cardiovascular: Normal S1/S2, RRR, no m/g, no rub
   Respiratory / Chest:  Mild crackles on left. No wheezes/rhonchi/rales
   Peripheral Vascular: B/L DP/PTpulses 1+
   Abdominal: Soft, Non-tender, non-distended, BS present. No HSM.
   Extremities: Left femoral incision site c/d/I
 well healed, right
   femoral/knee surgical incisions c/d/I w/ steristrips in place. No
   c/e/e, no femoral bruits, A-line placement site dressing bloody.
   Skin:  Warm, no stasis/ulcers/scars/xanthomas
   Neurologic: Attentive, mildly confused.
   Labs / Radiology
   232 K/uL
   8.4 g/dL
   106 mg/dL
   1.9 mg/dL
   23 mEq/L
   4.6 mEq/L
   34 mg/dL
   106 mEq/L
   139 mEq/L
   25.5 %
   9.4 K/uL
        [image002.jpg] UCx sensitivities: Pansensitive
                             [**2166-7-29**]  09:16 PM
                             [**2166-7-30**]  04:00 AM
                             [**2166-7-30**]  12:55 PM
                             [**2166-7-31**]  04:38 AM
                             [**2166-7-31**]  07:33 PM
                             [**2166-8-1**]  04:22 AM
                             [**2166-8-1**]  10:00 PM
                             [**2166-8-2**]  05:14 AM
   WBC
   10.5
   16.5
   11.7
   9.4
   Hct
   30.2
   30.2
   29.2
   26.3
   25.5
   Plt
   [**Telephone/Fax (3) 7084**]06
   232
   Cr
   1.1
   1.1
   1.2
   1.3
   1.6
   1.5
   1.9
   TropT
   3.74
   2.52
   3.03
   Glucose
   101
   129
   106
   Other labs: PT / PTT / INR:14.3/97.2/1.2, CK / CKMB /
   Troponin-T:322/30/3.03, ALT / AST:28/122, Alk Phos / T Bili:61/1.0,
   LDH:581 IU/L, Ca++:7.6 mg/dL, Mg++:3.4 mg/dL, PO4:3.9 mg/dL
   Urine lytes:
   UreaN:155
   Creat:18
   Na:116
   Creat:18
   TotProt:<6
   Eo
s pnd
   UA pnd
   Assessment and Plan
   The patient is a 87 yo female with h/o CAD s/p stent to RCA who
   presented from OSH with NSTEMI and was found to have 3VD via cardiac
   cath.
   .
   #. Systolic/Diastolic CHF: Acute on chronic. The patient had evidence
   of elevated LVEDP in cardiac cath.  Given Pt appears total body balance
   volume still overloaded today w/ mild crackles on exam, but
   intravascularly may be hypovolemic given FeNA on [**7-31**] and elevated
   BUN/Cr. Cr started to increase when Abx started, continued to increase
   after Lasix gtt started.
   -         I/O goal of even-neg 500cc today; adjust Lasix gtt to keep
   even
 will monitor Cr/UOP closely today
   -         ULytes, Eos, UA pending for pre-renal vs. Acute Interstitial
   Nephritis [**3-3**] Abx
   .
   # [**Last Name (un) 2406**]: Cr has been increasing daily (baseline 1.0, now 2.0 today), may
   be related to abx vs. starting Lasix gtt. [**Month (only) 11**] be multifactorial,
   doesn
t seem completely pre-renal. F/u urine studies as above.
   .
   # UTI: Had a positive UA, cx grew >100,000 E. coli, pansensitive.
   Received PO then IV ciprofloxacin, switched to CTX O/N due to [**Hospital1 1**]
   micro data then switched back to PO cipro (renal dosing) for 5 day
   course (complicated UTI). WBC now trending down, afebrile since AM [**7-31**].
   - day [**4-5**] of abx
   - follow-up blood cultures
   - monitor fever curve
   .
   #. CAD:  The patient has a history of CAD s/p stent to RCA
   approximately 10 yo at [**Hospital 1534**] Hospital.  The patient presented with
   chest pain and CE elevation, c/w NSTEMI.  Cardiac cath showed diffuse
   3VD.  CTSurg was consulted, patient is a poor surgical candidate. TTE
   showed LVEF 45% .
   - [**Hospital 7092**] medical management vs PCI
   - Continue Plavix, Atorvastatin, ASA 325 mg daily, Metoprolol 12.5 mg
   [**Hospital1 **] and uptitrate as tolerated
    - Hold ACEI; currently hypo/normotensive
   - Continue to monitor BPs w/ ALine
   .
   # RHYTHM:  Patient has been in and out of Afib with rates 100
s, slight
   drop in BP but asymptomatic. Last recurrence was 11pm on [**7-31**], received
   Lopressor and returned to NSR at 5 am. Currently in NSR.
   - Decrease Amio to 200 mg [**Hospital1 **], then 200 mg daily after 1 week.
   - Continue to monitor on telemetry
   - Given CHADS score of 3, pt at sufficient risk for stroke (~5%);
   started heparin gtt w/ bridge to Coumadin 2.5mg yesterday. Continue to
   monitor INR
   .
   # Chest pain: patient described pleuritic pain and has a pericardial
   rub on exam on [**2166-7-31**], both now resolved.  Possible post-MI
   inflammation causing pericarditis vs. infectious pericarditis.
   - Cont to avoid NSAIDs in peri-infarction period. Just pain control for
   now
 none needed since [**7-31**].
   .
   #. Melanoma:  The patient was recently diagnosed with melanoma and is
   now s/p excision of right inguinal lymph nodes.  She has had all of her
   care at [**Hospital3 1492**].
    - Acquire records from [**Hospital3 1492**], if necessary
   .
   #. Dementia:  Continue home dose of Donepezil
   .
   #. Psych:  Continue home dose of Wellbutrin for depression and
   Methylphenidate for ADD
   ICU Care
   Nutrition: Cardiac, heart healthy; Poor PO intake yesterday
 have
   added Ensure TID w/ possible Nutrition Consult later if poor intake
   continues
   .
   Glycemic Control:  not an issue
   Lines:
   Arterial Line - [**2166-8-1**] 01:00 AM
   PICC Line - [**2166-8-1**] 11:24 AM
   Prophylaxis:
   DVT: Heparin gtt, bridge to coumadin
   Pain: Tylenol, Morphine PRN
 none needed
   Bowel: Senna/Colace
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: Son and daughter appreciate regular updates
   Code status: DNR/DNI
   Disposition: CCU for now
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   per housestaff
   nothing to add
   Physical Examination
   per housestaff
   nothing to add
   Medical Decision Making
   per housestaff
   nothing to add
   Above discussed extensively with patient.
   Total time spent on patient care: 60 minutes.
   Additional comments:
   Diuresing however creatinine is increasing
   will decrease rate of diuresis
   drop amiodarone dose to 400 qd both to decrease anorexia and avoid
   marked rise in inr associated with loading of warfarin
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 1584**]
   on:[**2166-8-2**] 09:26 ------

2166-08-03 07:08:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - UA: trace LE, neg nitr, 1 rbc, 3 wbc, no bact, 17 hyaline casts
   - no urine eo's, Fe-urea=48%
   - decreased amio to 200 mg PO BID (has been loaded with 3g so far)
   - ate lunch but c/o nausea
   - Cr rose from 2 to 2.3, decreased Lasix gtt from 10 to 5
   - Hct cont trending down daily
   - went into A fib at 8 pm, SBP 100-118, converted spont to NSR at 11 pm
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2166-7-31**] 10:00 AM
   Ceftriaxone - [**2166-8-1**] 12:20 AM
   Infusions:
   Heparin Sodium - 750 units/hour
   OFF Lasix gtt
   Other ICU medications:
   Coumadin (Warfarin) - [**2166-8-2**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2166-8-3**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.1
C (97
   HR: 62 (56 - 103) bpm
   BP: 115/51(76) {87/38(56) - 118/63(84)} mmHg
   RR: 26 (14 - 27) insp/min
   SpO2: 96%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 60.4 kg (admission): 62.7 kg
   Height: 61 Inch
             Total In:
                                                                    833 mL
                                                                     72 mL
   PO:
                                                                    330 mL
             TF:
   IVF:
                                                                    503 mL
                                                                     72 mL
   Blood products:
   Total out:
                                                                  2,270 mL
                                                                    440 mL
   Urine:
                                                                  2,270 mL
                                                                    440 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,437 mL
                                                                   -368 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///27/
   Physical Examination
   General Appearance: Pleasant, comfortable, hard of hearing
   Eyes / Conjunctiva: Conjunctiva pink, no pallor or cyanosis of oral
   mucosa. Mucus membranes dry
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic/Neck: supple, JVP 8-9 cm, no HJR
   Cardiovascular: Normal S1/S2, RRR, no m/g, no rub
   Respiratory / Chest:  Crackles at bilateral bases. No
   wheezes/rhonchi/rales
   Peripheral Vascular: B/L DP/PTpulses 1+
   Abdominal: Soft, Non-tender, non-distended, BS present. No HSM.
   Extremities: Left femoral incision site well healed, right femoral/knee
   surgical incisions healing well w/ steristrips in place.  No femoral
   bruits, A-line and PICC placement sites have bloody dressings.
   Skin:  Warm.
   Neurologic: Alert and Oriented x 1 only, but remains attentive.
   Labs / Radiology
   253 K/uL
   8.9 g/dL
   104 mg/dL
   2.1 mg/dL
   27 mEq/L
   3.7 mEq/L
   37 mg/dL
   103 mEq/L
   139 mEq/L
   27.2 %
   7.3 K/uL
        [image002.jpg]
                             [**2166-7-29**]  09:16 PM
                             [**2166-7-30**]  04:00 AM
                             [**2166-7-30**]  12:55 PM
                             [**2166-7-31**]  04:38 AM
                             [**2166-7-31**]  07:33 PM
                             [**2166-8-1**]  04:22 AM
                             [**2166-8-1**]  10:00 PM
                             [**2166-8-2**]  05:14 AM
                             [**2166-8-2**]  03:05 PM
                             [**2166-8-3**]  05:22 AM
   WBC
   10.5
   16.5
   11.7
   9.4
   7.3
   Hct
   30.2
   30.2
   29.2
   26.3
   25.5
   27.2
   Plt
   [**Telephone/Fax (3) 7111**]
   Cr
   1.1
   1.1
   1.2
   1.3
   1.6
   1.5
   1.9
   2.0
   2.3
   2.1
   TropT
   3.74
   2.52
   3.03
   Glucose
   101
   129
   106
   97
   148
   104
   Other labs: PT / PTT / INR:15.2/73.7/1.3, CK / CKMB /
   Troponin-T:322/30/3.03, ALT / AST:28/122, Alk Phos / T Bili:61/1.0,
   LDH:581 IU/L, Ca++:7.9 mg/dL, Mg++:2.2 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   The patient is a 87 yo female with h/o CAD s/p stent to RCA who
   presented from OSH with NSTEMI and was found to have 3VD via cardiac
   cath.
   .
   #. Systolic/Diastolic CHF: Acute on chronic. The patient had evidence
   of elevated LVEDP in cardiac cath.  Given Pt appears mildly fluid
   overloaded with bilateral crackles on lung exam, will attempt to
   maintain slightly negative, though we are limited by her kidney
   function.
   - doing well with O2 sat 97 on RA
   - I/O goal of even today, D/Ced Lasix gtt yesterday, hold off for today
   - monitor Cr/UOP closely.
   .
   # [**Last Name (un) 2406**]: Cr had been increasing steadily (baseline 1.0, now 2.1 today),
   may be related to contrast vs. abx vs. Lasix gtt. FE Urea 48%,
   suggesting that rising creatinine is not simply pre-renal, but
   multifactorial.
   - Urine eos negative and UA negative.
   - hold Lasix for today, follow Cr
   .
   # UTI: Had a positive UA, cx grew >100,000 E. coli, pansensitive.
   Received PO then IV ciprofloxacin, switched to CTX O/N due to [**Hospital1 1**]
   micro data then switched back to PO cipro (renal dosing). WBC now
   trending down, afebrile since AM [**7-31**].
   - day [**5-6**] of abx
   - follow-up blood cultures x3
   - monitor fever curve
   .
   #. CAD:  The patient has a history of CAD s/p stent to RCA
   approximately 10 yo at [**Hospital 1534**] Hospital.  The patient presented with
   chest pain and CE elevation, c/w NSTEMI.  Cardiac cath showed diffuse
   3VD.  CTSurg was consulted, patient is a poor surgical candidate. TTE
   showed LVEF 45%.  Plan is aggressive medical management.
   - Continue Plavix, Atorvastatin, ASA 325 mg daily, Metoprolol 12.5 mg
   [**Hospital1 **] and uptitrate as tolerated
    - Holding ACEI in setting of acute kidney injury
   - D/C arterial line today
   .
   # RHYTHM:  Patient has been in and out of Afib with rates 90-100
s, no
   change in blood pressure. Last recurrence was 8pm to midnight [**8-2**],
   converted spontaneously. Currently in NSR.
   - Cont Amio to 200 mg [**Hospital1 **], then 200 mg daily after 1 week.
   - Continue to monitor on telemetry
   - Given CHADS score of 3, pt at sufficient risk for stroke (~5%);
   started heparin gtt w/ bridge to Coumadin 2.5mg yesterday.  INR remains
   subtherapeutic.
   .
   # Chest pain: patient described pleuritic pain and has a pericardial
   rub on exam on [**2166-7-31**], both now resolved.  Possible post-MI
   inflammation causing pericarditis vs. infectious pericarditis.
   - Cont to avoid NSAIDs in peri-infarction period. Just pain control for
   now
 none needed since [**7-31**].
   .
   #. Melanoma:  The patient was recently diagnosed with melanoma and is
   now s/p excision of right inguinal lymph nodes.  She has had all of her
   care at [**Hospital3 1492**].
   .
   #. Dementia:  Less oriented today, but remains attentive.  Very high
   risk for delirium.  Continue home dose of Donepezil
   .
   #. Psych:  Continue home dose of Wellbutrin for depression and
   Methylphenidate for ADD
   ICU Care
   Nutrition: Regular heart healthy diet, patient with poor PO intake.
   Cont Ensure w/ meals. Consider nutrtition consult if persists.
   Lines:
   Arterial Line - [**2166-8-1**] 01:00 AM (D/C today)
   PICC Line - [**2166-8-1**] 11:24 AM
   Prophylaxis:
   DVT: On heparin bridge to coumadin
   Stress ulcer: OOB to chair.
   VAP:  n/a
   Comments:
   Communication:  daughter [**Name (NI) 7112**] [**Telephone/Fax (1) 7113**], son [**Name (NI) 2381**] [**Telephone/Fax (1) 7114**]
   [**Name2 (NI) 129**] status: DNR (do not resuscitate)
   Disposition: Call out to floor
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   per housestaff
   nothing to add
   Physical Examination
   per housestaff
   nothing to add
   Medical Decision Making
   per housestaff
   nothing to add
   Above discussed extensively with patient.
   Total time spent on patient care: 30 minutes.
   Additional comments:
   Doing better
   will transfer to cardiology step down unit
   will plan on [**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] protocol prior to discharge
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 1584**]
   on:[**2166-8-3**] 11:20 ------